US04166813
1,2-Bis{3-[N-butyl-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]-2-hydroxypropoxy}ethane (Compound No. 4)
A mixture of 6.4 g of 4-butylamino-2,2,6,6-tetramethylpiperidine and 2.6 g of ethylene glycol bis(2,3-epoxypropyl)ether in 50 ml of methanol was refluxed, with stirring for 5 hours. At the end of this time, the solvent was removed from the reaction mixture by evaporation under reduced pressure and then the residue was recrystallized from n-hexane, giving the desired compound in the form of white crystals melting at 81°-83° C. and boiling at 258°-262° C. at 0.06 mmHg.

reactant | 4-butylamino-2,2,6,6-tetramethylpiperidine | 6.4 g | C(CCC)NC1CC(NC(C1)(C)C)(C)C | C13H28N2
reactant | ethylene glycol bis(2,3-epoxypropyl)ether | 2.6 g | O1C(COCCOCC2CO2)C1 | C8H14O4
solvent | methanol | 50 ml | CO | CH4O
product | 1,2-Bis{3-[N-butyl-N-(2,2,6,6-tetramethyl-4-piperidyl)amino]-2-hydroxypropoxy}ethane | C(CCC)N(C1CC(NC(C1)(C)C)(C)C)CC(COCCOCC(CN(CCCC)C1CC(NC(C1)(C)C)(C)C)O)O | C34H70N4O4
